US06391901B1
Preparation of 6-Hydroxy-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]-2-[4-(3-cyanopropyloxy)phenyl]benzo[b]thiophene
By essentially following the proceedure described in Example 16, Part A, the title compound was prepared as an oil starting from 6-benzyloxy-2-dimethylaminobenzo[b]thiophene and 4-[2-(1-pyrrolidinyl)ethoxy]benzoyl chloride hydrochloride in 38% yield following MPLC (SiO2; 15% then 20% then 30% THF with 5% TEA in hexanes).

reactant | 6-benzyloxy-2-dimethylaminobenzo[b]thiophene | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2)N(C)C)C1 | C17H17NOS
reactant | 4-[2-(1-pyrrolidinyl)ethoxy]benzoyl chloride hydrochloride | Cl.N1(CCCC1)CCOC1=CC=C(C(=O)Cl)C=C1
reactant | THF | C1CCOC1 | C4H8O
product | 6-Hydroxy-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]-2-[4-(3-cyanopropyloxy)phenyl]benzo[b]thiophene | 38% yield | OC=1C=CC2=C(SC(=C2CC2=CC=C(C=C2)OCCN2CCCC2)C2=CC=C(C=C2)OCCCC#N)C1 | C31H32N2O3S
